US06649643B1
Production of 1-(2,3-Dihydro-1H-benzo[f]chromen-8-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
n-Butyl-lithium in hexane (1.6M; 41 mL) was added to a solution of 8-bromo-2,3-dihydro-1H-benzo[f]chromene (13.35 g) in THF (250 ml) at −78° C. and stirred at the same temperature for 30 min. A solution of 4-formyl-1-trityl-1H-imidazole (16.83 g) in THF (150 ml) was added to the mixture and the whole was allowed to room temperature. Aqueous ammonium chloride solution was added to the mixture and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated. The residue was washed with ethyl acetate to give the titled compound (11.80 g) as a colorless solid.

reactant | n-Butyl-lithium | C(CCC)[Li]
reactant | 8-bromo-2,3-dihydro-1H-benzo[f]chromene | 13.35 g | BrC1=CC2=C(C=3CCCOC3C=C2)C=C1 | C13H11BrO
reactant | 4-formyl-1-trityl-1H-imidazole | 16.83 g | C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 1.6M, 41 mL | CCCCCC | C6H14
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 1-(2,3-Dihydro-1H-benzo[f]chromen-8-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 11.80 g | C1CCOC=2C=CC3=C(C12)C=CC(=C3)C(C(C)C)(O)C=3N=CNC3 | C20H22N2O2
